US08629271B2
b) tert-Butyl 4-(2-aminoethyl)-4-hydroxypiperidine-1-carboxylate
A solution of tert-butyl 4-(cyanomethyl)-4-hydroxypiperidine-1-carboxylate (example 89, step a) (1.4 g) in a mixture of ethanol (20 mL) and acetic acid (20 mL) was hydrogenated at 4 atmospheres pressure of hydrogen in the presence of platinum(IV) oxide (0.25 g) for 4 hours. The catalyst was filtered off and the solvents removed under reduced pressure. The residue was partitioned between dilute aqueous NaOH and ethyl acetate and the organic layer dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure to afford the subtitled compound. Yield 1.1 g. Used directly.

reactant | tert-butyl 4-(cyanomethyl)-4-hydroxypiperidine-1-carboxylate | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C12H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 0.25 g | [Pt](=O)=O
product | tert-Butyl 4-(2-aminoethyl)-4-hydroxypiperidine-1-carboxylate | NCCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C12H24N2O3
